US06277991B1
(8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid
(8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid methyl ester (44.40 g, 0.1 mol, prepared as described above) was dissolved in a mixture of 2 N sodium hydroxide (165 ml, 0.33 mol) and ethanol (500 ml) and stirred at room temperature for 16 h. Dichloromethane (700 ml) was added and pH was adjusted to 5 by the addition of 6 N hydrochloric acid. The organic phase was separated, washed with water (2×200 ml and concentrated to 300 ml in vacuo. Water (300 ml) and dichloromethane (100 ml) were added and the slurry was stirred overnight. The product was collected by filtration, washed successively with water (4×100 ml, dichloromethane (2×50 ml) and acetone (2×50 ml) and dried, affording the title compound as a powder (44.6 g, 97% yield).

reactant | (8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid methyl ester | 0.1 mol, 44.40 g | COC(CN1CN(C2(C1=O)CCN(CC2)CC2=CC=CC1=CC=CC=C21)C2=CC=CC=C2)=O | C27H29N3O3
reactant | sodium hydroxide | 0.33 mol, 2 N, 165 ml | [OH-].[Na+]
reactant | Dichloromethane | 700 ml | ClCCl | CH2Cl2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (8-Naphthalen-1-ylmethyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl)-acetic acid | 44.6 g, 97% yield | C1(=CC=CC2=CC=CC=C12)CN1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)O)=O)CC1 | C26H27N3O3
